US05476671
Synthesis of N-(2,3-dihydroxypropyl)-N-hexadecylhexadecanamide (Structure 4)
N-(2,3-dihydroxypropyl)-N-hexadecylamine (0.40 g, 0.0013 mole) and potassium hydroxide (0.01 g, 0.18 mmole) were heated to 85° C. under vacuum. Methyl palmitate (0.343 g, 0.0013 mole) was heated to melt and added dropwise to the reaction. The reaction was heated under vacuum for 6 hours. A waxy off-white solid was obtained. The waxy solid was recrystalized from hot hexane (yield=0.4 g).

reactant | N-(2,3-dihydroxypropyl)-N-hexadecylamine | 0.0013 mole, 0.40 g | OC(CNCCCCCCCCCCCCCCCC)CO | C19H41NO2
reactant | potassium hydroxide | 0.18 mmole, 0.01 g | [OH-].[K+]
reactant | Methyl palmitate | 0.0013 mole, 0.343 g | C(CCCCCCCCCCCCCCC)(=O)OC | C17H34O2
product | N-(2,3-dihydroxypropyl)-N-hexadecylhexadecanamide | OC(CN(C(CCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCCCC)CO | C35H71NO3
